US04235915
1-Cyclohexylcarbonyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea
1-Cyclohexylcarbonyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]urea, prepared by reacting 1-cyclohexylcarbonyl-3-(piperid-4-yl)urea with 2 -bromoacetyl-1,4-benzodioxan in DMF/Et3N, may be reduced using sodium borohydride in 2 N sodium hydroxide to give the title compound.

reactant | 1-Cyclohexylcarbonyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]urea | C1(CCCCC1)C(=O)NC(=O)NC1CCN(CC1)CC(=O)C1COC2=C(O1)C=CC=C2 | C23H31N3O5
reactant | 1-cyclohexylcarbonyl-3-(piperid-4-yl)urea | C1(CCCCC1)C(=O)NC(=O)NC1CCNCC1 | C13H23N3O2
reactant | 2 -bromoacetyl-1,4-benzodioxan | BrCC(=O)C1COC2=C(O1)C=CC=C2 | C10H9BrO3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | DMF Et3N | CN(C)C=O.CCN(CC)CC
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | 1-Cyclohexylcarbonyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea | C1(CCCCC1)C(=O)NC(=O)NC1CCN(CC1)CC(O)C1COC2=C(O1)C=CC=C2 | C23H33N3O5
